US04460580
A solution of 8.7 g of 4-benzyloxy-α-[N-[2-(4-carbamoyl-3-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol in 100 ml of dioxan is hydrogenated under normal conditions with the addition of 2 g of palladium-on-charcoal catalyst (5%) until 1 equivalent of hydrogen has been taken up. The product which has precipitated is brought into solution after adding 200 ml of methanol, by warming, the catalyst is filtered off and the filtrate is evaporated. Recrystallisation of the residue from isopropanol yields crystalline α-[N-[2-(4-carbamoyl-3-hydroxy-phenoxy)-ethyl]-aminomethyl]-4-hydroxybenzyl alcohol with a melting point of 181°-182°.

reactant | 4-benzyloxy-α-[N-[2-(4-carbamoyl-3-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol | 8.7 g | C(C1=CC=CC=C1)OC1=CC=C(C(CNCCOC2=CC(=C(C=C2)C(N)=O)O)O)C=C1 | C24H26N2O5
reactant | hydrogen | 1 equivalent | [H][H] | H2
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-on-charcoal | 2 g | [Pd] | Pd
product | α-[N-[2-(4-carbamoyl-3-hydroxy-phenoxy)-ethyl]-aminomethyl]-4-hydroxybenzyl alcohol | C(N)(=O)C1=C(C=C(OCCNCC(C2=CC=C(C=C2)O)O)C=C1)O | C17H20N2O5
